US05011931
A mixture of acetic anhydride (66.0 ml) and formic acid (45.0 ml) was stirred and heated at 50°-60° under nitrogen for 2 hours and then cooled to ambient temperature. 1-(4-Fluoro-2-methylaminophenyl)-2-methylsulphinylethanone (69.0 g), prepared in a similar manner to that described in Example 1, was added slowly below 30° and the mixture stirred for a further 2 hours. The mixture was cooled in an ice/salt bath to 0° and water (500 ml) added whilst maintaining the temperature below 30°. The mixture was filtered and the filtrate cooled in an ice/salt bath to 0°. Toluene (100 ml) and aqueous sodium hydroxide solution (specific gravity 1.5; 140 ml) were added sequentially, again maintaining the temperature below 30°. The mixture was stirred for 30 minutes at ambient temperature and the product collected by filtration, washed with water (200 ml), toluene (3×50 ml) and hexane (2×50 ml) and then dried at 50° in vacuo to give 7-fluoro-1-methyl-3-methylsulphinyl-4-quinolone, m.p.228.5°-230.5° (53.7 g).

reactant | acetic anhydride | 66.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 45.0 ml | C(=O)O | CH2O2
reactant | 1-(4-Fluoro-2-methylaminophenyl)-2-methylsulphinylethanone | 69.0 g | FC1=CC(=C(C=C1)C(CS(=O)C)=O)NC | C10H12FNO2S
solvent | water | 500 ml | O | H2O
product | 7-fluoro-1-methyl-3-methylsulphinyl-4-quinolone | FC1=CC=C2C(C(=CN(C2=C1)C)S(=O)C)=O | C11H10FNO2S
